US04873236
5,10-Dihydro-5-[[[3-[2-[(dimethylamino)methyl]-piperidin-1-yl]propyl]amino]carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
Prepared analogously to Example 2 from 5-(chlorocarbonyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and 3-[2-[(dimethylamino)methy]-piperidin-1-yl]propanamine in a yield of 80% of theory. Colourless crystals, m.p. 131°-133° C. (diisopropyl ether).

reactant | 5-(chlorocarbonyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C14H9ClN2O2
reactant | 3-[2-[(dimethylamino)methy]-piperidin-1-yl]propanamine | CN(C)CC1N(CCCC1)CCCN | C11H25N3
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 5,10-Dihydro-5-[[[3-[2-[(dimethylamino)methyl]-piperidin-1-yl]propyl]amino]carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | yield of 80% | CN(C)CC1N(CCCC1)CCCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C25H33N5O2
